US06627651B1
To 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxylic acid (1402 mg, 5.00 mmol) dissolved in DMF (30 ml) were added at 0° C. 1-hydroxybenzotriazole (743 mg, 5.50 mmol), 3-[1-(tert-butoxycarbonyl)piperidin-4-yl]propylamine (1333 mg, 5.50 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1438 mg, 7.50 mmol), and the resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure, ethyl acetate (100 ml) was added to the residue and the resulting mixture was washed successively with water (10×3 ml), a 10% aqueous solution of potassium hydrogensulfate (10 ml×3), an aqueous saturated solution of sodium bicarbonate (10 ml×3) and an aqueous saturated solution of sodium chloride (10 ml). The organic layer was dried with anhydrous magnesium sulfate and was then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel 80g, ethyl acetate/hexane=1/3→1/1)]. The objective fractions were concentrated under reduced pressure to obtain N-[3-[1-(tert-butoxycarbonyl)piperidin-4-yl]propyl]-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxamide (2498 mg, 4.95 mmol, 99%).

reactant | 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxylic acid | 5.00 mmol, 1402 mg | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C18H16O3
reactant | 1-hydroxybenzotriazole | 5.50 mmol, 743 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-[1-(tert-butoxycarbonyl)piperidin-4-yl]propylamine | 5.50 mmol, 1333 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 7.50 mmol, 1438 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-[3-[1-(tert-butoxycarbonyl)piperidin-4-yl]propyl]-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxamide | 4.95 mmol, 2498 mg, 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCNC(=O)C=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C31H40N2O4
